//  *****************************************************************************************
simulator lang=spectre insensitive=yes
//       TSMC   0.35um 3.3v/5v
//	Model Name 'cmosn'   
//            *
//  ****************************************************************************************
 
model cmosn bsim3v3 type=n 
+ version=3.1               binunit=1.0000e+00        mobmod=1
+ capmod=2                  nqsmod=0.0000e+00         
+ tox=7.7e-9                                          toxm=4.2000e-09
+ xj=1e-7                   nch=2.2e17                rsh=80
+ ngate=1.0000e+23          vth0=0.4739035
+ k1=0.5980711              k2=2.129508e-4            k3=89.1316051
+ k3b=-8.9451617            w0=3.267588e-5            nlx=2.389619e-7
+ dvt0=3.090362             dvt1=0.7427518            dvt2=-0.1500347
+ dvt0w=0                   dvt1w=0                   dvt2w=0
+ lint=0                    wint=1.45681e-7           dwg=-5.436366e-9
+ dwb=4.655955e-9           u0=385.646076
+ ua=-4.6434e-10            ub=2.099304e-18           uc=3.944494e-11
+ vsat=1.584114e5           a0=1.1776486              ags=0.1836559
+ b0=7.523723e-7            b1=5e-6                   keta=2.991409e-3
+ a1=0                      a2=0.4259175              voff=-0.0938652
+ nfactor=1.3714105         cit=0                     cdsc=2.4e-4
+ cdscd=0                   cdscb=0                   eta0=0.9911705
+ etab=0.0151948            dsub=0.8661705            pclm=1.6432607
+ pdiblc1=1.509754e-3       pdiblc2=1.479156e-3       pdiblcb=0.1
+ drout=0                   pscbe1=7.204688E8         pscbe2=6.67778e-4
+ pvag=0                    rdsw=1.060209e3           prwg=-0.0949099
+ prwb=-0.0949472           wr=1                      alpha0=0.0000e+00
+ alpha1=0.0000e+00         beta0=3.0000e+01          xpart=0.5
+ cgso=3.1e-10                     
+ cgdo=3.1e-10                                        cgbo=1e-12
+ cgsl=0.0000e+00           cgdl=0.0000e+00           ckappa=6.0000e-01
+ cf=0                      clc=1.0000e-07            cle=6.0000e-01
+ dlc=2.9000e-08            dwc=0.0000e+00            vfbcv=-1.0000e+00
+ noff=1.0000e+00           voffcv=0.0000e+00         acde=1.0000e+00
+ moin=1.5000e+01           lmin=1.8000e-07           lmax=5.0000e-05
+ wmin=2.4000e-07           wmax=1.0000e-04           
+ xl=-5e-8                   
+ xw=1.5e-7                                           js=1.0000e-06
+ jsw=7.0000e-11            cj=9.161291e-4
+ mj=0.3472772              pb=0.8             
+ cjsw=3.326018e-10                                   mjsw=0.1126914
+ tnom=27                   ute=-1.5                  kt1=-0.11
+ kt1l=0                    kt2=0.022                 ua1=4.31e-9
+ ub1=-7.61e-18             uc1=-5.6e-11              at=3.3e4
+ prt=0                     xti=3.0000e+00            wl=0
+ wln=1                     ww=0                      wwn=1
+ wwl=0                     ll=0                      lln=1
+ lw=0                      lwn=1                     lwl=0
+ llc=-2.1400e-15           lwc=0.0000e+00            lwlc=0.0000e+00
+ wlc=0.0000e+00            wwc=0.0000e+00            wwlc=0.0000e+00
+ lvth0= - 1.0000e-03                
+ wvth0=6.027e-02                                     pvth0=-0.0227383
+ lnlx=-2.8540e-08          wnlx=0.0000e+00           pnlx=0.0000e+00
+ wua=-1.8800e-11           wu0=5.4000e-01
+ pub=3.8000e-20            pw0=1.3000e-09            wrdsw=0.0000e+00
+ weta0=0.0000e+00          wetab=0.0000e+00          leta0=1.5740e-03
+ letab=0.0000e+00          peta0=0.0000e+00          petab=0.0000e+00
+ wpclm=0.0000e+00          wvoff=-4.0780e-04         lvoff=-4.2080e-03
+ pvoff=-3.7880e-04         wa0=-4.7310e-02           la0=-4.6670e-01
+ pa0=-2.6490e-02           wags=4.2420e-03           lags=3.0280e-01
+ pags=0.0000e+00           wketa=-1.530315e-3        lketa=-7.775726e-4
+ pketa=0.0000e+00          wute=6.3730e-02           lute=0.0000e+00
+ pute=0.0000e+00           wvsat=5.0660e+03          lvsat=0.0000e+00
+ pvsat=0.0000e+00                                    lpdiblc2=-4.7520e-03
+ wat=7.0670e+03            wprt=0.0000e+00           ldif=8.0000e-08
+ hdif=2.6000e-07           n=1.0000e+00              pbsw=0.8
+ cjswg=1.82e-10                                      ctp=9.1400e-04
+ ptp=9.2400e-04            cta=9.1900e-04            pta=1.5800e-03
+ elm=5.0000e+00            tlevc=1.0000e+00          
+ noimod=2.0e+00		noia=1.3182567385564e+19		noib=144543.977074592
+ noic=-1.24515784572817e-12	ef=0.92					em=41000000


 
//  ****************************************************************************************
//       TSMC   0.35um 3.3v/5v
//	Model Name 'cmosp'    
//            *
//  ****************************************************************************************

model cmosp bsim3v3 type=p 
+ mobmod=1.0000e+00         version=3.1000e+00        capmod=2.0000e+00
+ binunit=1.0000e+00        nqsmod=0.0000e+00         
+ tox=7.7e-9                                          toxm=4.2000e-09
+ xj=1e-7                   nch=8.52e+16              ngate=1.0000e+23
+ vth0= -0.7163484                                    k1=0.408893
+ k2=-4.658963e-3           k3=83.7384608             k3b=-5
+ w0=6.344557e-6            nlx=2.240363e-7           dvt0=1.6210073
+ dvt1=0.5540586            dvt2=4.208854e-4          dvt0w=0
+ dvt1w=0                   dvt2w=0                   lint=0
+ wint=1.472296E-7          dwg=-1.708734e-8          dwb=9.651369e-9
+ u0=152.1750181                                      ua=1.104005e-10
+ ub=1.869373e-18           uc=-1.72527e-11           vsat=1.303949e+5
+ a0=1.0511452              ags=0.3481503             b0=2.548932E-6
+ b1=5e-6                   keta=-6.220316e-3         a1=1.304949e-4
+ a2=1.0000e+00             voff=-0.1353734           nfactor=1.8615508
+ cit=0                     cdsc=2.4e-4               cdscd=0
+ cdscb=0                   eta0=0.0402356            etab=3.101076E-3
+ dsub=0.4414883            pclm=4.0879121            pdiblc1=1.7464E-4
+ pdiblc2=7.295654E-3       pdiblcb=0.049958          drout=9.989502e-4
+ pscbe1=7.963794e+10       pscbe2=5e-10              pvag=4.3044365
+ rdsw=4e+3                 prwg=-0.1517701           prwb=0.0807754
+ alpha0=0.0000e+00         alpha1=0.0000e+00         beta0=3.0000e+01
+ cgdo=3.38e-10                                       cgbo=1e-12
+ cgso=3.38e-10                                       xpart=0.5
+ cf=0                      dlc=5.6000e-08            cgsl=0.0000e+00
+ cgdl=0.0000e+00           ckappa=6.0000e-01         clc=1.0000e-07
+ cle=6.0000e-01            dwc=0.0000e+00            vfbcv=-1.0000e+00
+ noff=1.0000e+00           voffcv=0.0000e+00         acde=1.0000e+00
+ moin=1.5000e+01           lmin=1.8000e-07           lmax=5.0000e-05
+ wmin=2.4000e-07           wmax=1.0000e-04           
+ xl= -5e-8                   
+ xw=1.5E-7                                           js=3.0000e-06
+ jsw=4.1200e-11                                      cj=1.413045e-3
+ mj=0.5610227              pb=0.99             
+ cjsw=2.971607e-10                                   mjsw=0.38282
+ tnom=2.7000e+01           ute=-1.5                  kt1=-0.11
+ kt1l=0                    kt2=0.022                 ua1=4.31e-9
+ ub1=-7.61e-18             uc1=-5.6e-11              at=3.3e+4
+ prt=0.0000e+00            xti=3.0000e+00            ww=0
+ lw=0                      ll=0                      wl=0.0000e+00
+ wln=1.0000e+00            wwn=1.0000e+00            wwl=0.0000e+00
+ lln=1.0000e+00            lwn=1.0000e+00            lwl=0.0000e+00
+ llc=-7.4500e-15           lwc=0.0000e+00            lwlc=0.0000e+00
+ wlc=0.0000e+00            wwc=0.0000e+00            wwlc=0.0000e+00
+ lvth0=4.4000e-03                   
+ wvth0= - 1.4800e-02                
+ pvth0=7.40325e-3                                    lnlx=-1.5840e-08
+ wrdsw=1.0070e+01          weta0=0.0000e+00          wetab=0.0000e+00
+ wpclm=0.0000e+00          wua=2.6300e-09            lua=-8.1530e-11
+ pua=5.8550e-11            wub=0.0000e+00            lub=0.0000e+00
+ pub=0.0000e+00            wuc=0.0000e+00            luc=0.0000e+00
+ puc=0.0000e+00            wvoff=-9.8160e-03         lvoff=-9.8710e-04
+ pvoff=-9.8330e-05         wa0=-4.8070e-02           la0=-2.8100e-01
+ pa0=8.6610e-02            wags=-4.1770e-02          lags=4.4540e-02
+ pags=-4.0760e-02          wketa=1.675253e-3         lketa=-3.463411e-3
+ pketa=0.0000e+00          wute=-2.6820e-01          lute=0.0000e+00
+ pute=0.0000e+00           wvsat=-1.4200e+04         lvsat=0.0000e+00
+ pvsat= - 4.3400e+02                                 lpdiblc2=3.0120e-03
+ cjswg= 4.42E-11                                     wat=-6.4050e+03
+ wprt=2.1660e+02           n=1.0000e+00              pbsw=0.99
+ cta=1.0000e-03            ctp=7.5300e-04            pta=1.5500e-03
+ ptp=1.2400e-03            ldif=8.0000e-08           rsh=148.4
+ rd=0.0000e+00             rsc=0.0000e+00            rdc=0.0000e+00
+ hdif=2.6000e-07           rs=0.0000e+00             
+ noimod=2.0e+00		noia=3.57456993317604e+18		noib=2500
+ noic=2.61260020285845e-11	ef=1.1388				em=41000000
